US04923868
Ethyl 8-fluoro-9-(4-methyl-1-piperazinyl)-6-oxo-6H-benzo[c]quinolizine-5-carboxylate
A mixture of 2.0 g of ethyl 8,9-difluoro-6-oxo-6H-benzo[c]quinolizine-5-carboxylate and 3.3 g of N-methylpiperazine was heated at 110° C. for 2 hours. The solvent was evaporated and the residue partitioned between water and dichloromethane. The organic layer was dried and the solvent removed giving 2.0 g of the desired product, mp 167°-170° C.

reactant | ethyl 8,9-difluoro-6-oxo-6H-benzo[c]quinolizine-5-carboxylate | 2.0 g | FC=1C(=CC2=C(C(C(=C3C=CC=CN23)C(=O)OCC)=O)C1)F | C16H11F2NO3
reactant | N-methylpiperazine | 3.3 g | CN1CCNCC1 | C5H12N2
product | Ethyl 8-fluoro-9-(4-methyl-1-piperazinyl)-6-oxo-6H-benzo[c]quinolizine-5-carboxylate | 2.0 g | FC=1C(=CC2=C(C(C(=C3C=CC=CN23)C(=O)OCC)=O)C1)N1CCN(CC1)C | C21H22FN3O3
